US06734183B2
Acetic anhydride (0.51 ml) was added directly to formic acid (2.0 ml) which had been cooled to 0° C. and then added a solution of 2-[4-[4-(5-chloropyridin-2-yl)piperazino]sulfonyl-3-(hydroxyamino)butyl]-5-fluoropyrimidine (0.485 g) in tetrahydrofuran (11 ml). The solution was stirred at room temperature for 3 hours and then evaporated in vacuo, the resulting residue was azeotroped with toluene and then it was dissolved in methanol and heated to 40° C. for 30 minutes. The solution was evaporated to dryness and then added diethylether and stirred at room temperature for 10 minutes, solid filtered, dried in vacuo to give N-[1-([4-(5-chloropyridin-2-yl)piperazino]sulfonylmethyl)-3-(5-fluoropyrimidin-2-yl)propyl]-N-hydroxyformamide, (0218 g), mp 154-155° C.

reactant | Acetic anhydride | 0.51 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 2.0 ml | C(=O)O | CH2O2
reactant | 2-[4-[4-(5-chloropyridin-2-yl)piperazino]sulfonyl-3-(hydroxyamino)butyl]-5-fluoropyrimidine | 0.485 g | ClC=1C=CC(=NC1)N1CCN(CC1)S(=O)(=O)CC(CCC1=NC=C(C=N1)F)NO | C17H22ClFN6O3S
solvent | tetrahydrofuran | 11 ml | O1CCCC1 | C4H8O
product | N-[1-([4-(5-chloropyridin-2-yl)piperazino]sulfonylmethyl)-3-(5-fluoropyrimidin-2-yl)propyl]-N-hydroxyformamide | ClC=1C=CC(=NC1)N1CCN(CC1)S(=O)(=O)CC(CCC1=NC=C(C=N1)F)N(C=O)O | C18H22ClFN6O4S
